.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical

.subckt vref_1v2 VDD VSS VREF IBIAS
XM1 IBIAS IBIAS VDD VDD pfet_03v3 W=2u L=8u nf=1
XM2 VREF IBIAS VDD VDD pfet_03v3 W=2u L=8u nf=1
XM3 VREF VREF VMB VSS nfet_03v3 W=9.5u L=0.28u nf=1
XM4 VMB VREF VSS VSS nfet_03v3 W=9.5u L=8u nf=1
.ends vref_1v2

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
I_BIAS IBIAS VSS 3e-05
C_LOAD VREF VSS 1p
Xdut VDD VSS VREF IBIAS vref_1v2

.temp 27.0
.control
op
print v(VREF) i(Vsupply0)
.endc
.end
